US08309542B2
(b) tert. Butyl (2S,4R)-2-azidomethyl-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1-carboxylate
330.0 mg (0.75 mmol) tert. Butyl (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-methanesulphonyloxymethyl-pyrrolidine-1-carboxylate are dissolved in 20 ml DMF and combined with 146.6 mg (2.3 mmol) sodium azide. The mixture is stirred at 50° C. for 16 hours. Then a further 73 mg (1.12 mmol) sodium azide are added and the mixture is stirred for a further two hours at 50° C. Then it is concentrated i. vac. The residue is combined with water/sat. Saline solution and extracted three times with ethyl acetate. The combined organic phases are dried on sodium sulphate, filtered and evaporated down i. vac.

reactant | tert. Butyl (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-methanesulphonyloxymethyl-pyrrolidine-1-carboxylate | 0.75 mmol, 330.0 mg | ClC1=CC=C(S1)C(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COS(=O)(=O)C | C16H23ClN2O6S2
reactant | sodium azide | 2.3 mmol, 146.6 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium azide | 1.12 mmol, 73 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | tert. Butyl (2S,4R)-2-azidomethyl-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1-carboxylate | N(=[N+]=[N-])C[C@H]1N(C[C@@H](C1)NC(=O)C=1SC(=CC1)Cl)C(=O)OC(C)(C)C | C15H20ClN5O3S
